US07297704B2
6-Fluoro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid
In a 5-L cylindrical reactor, p-fluorophenylhydrazine HCl (400 g, 2.46 mol) was suspended in ethanol (2B) (1.2 kg; 1.5 L). The slurry was stirred and heated to 60-65° C. A solution of 4-cyclohexanone carboxylic acid ethyl ester (400 g, 2.35 mol) in ethanol (2B) (0.4 L) was added over 1 h. The reaction temperature may rise to reflux (78-82° C.). After addition, the suspension was stirred and heated at reflux for 1 h then cooled to 40-50° C. A 50% sodium hydroxide solution (470 g) was added over 30 min. The suspension was heated to reflux (80-82° C.). (This can cause evolution of ammonium gas during heating). After 1 h, the reaction mixture was distilled at atmospheric pressure to about 1.5 L, about half of its original volume, then cooled to 60-70° C. Water (2.5 L) was added. The mixtured was cooled to 30-40° C. before dilute HCl (0.333 L conc HCl+0.667 L water) was added over 20 min. The suspension was stirred at 20° C. for 1 h then filtered through a Buchner funnel. The solid product was washed with water (3×1 L) then dried under N2 overnight to give 534.5 g (97.5% yield) of off-white solid.

reactant | p-fluorophenylhydrazine HCl | 2.46 mol, 400 g | Cl.FC1=CC=C(C=C1)NN
reactant | 4-cyclohexanone carboxylic acid ethyl ester | 2.35 mol, 400 g | CCOC(=O)C1CCC(=O)CC1 | C9H14O3
reactant | sodium hydroxide | 470 g | [OH-].[Na+]
reactant | ammonium | [NH4+]
solvent | ethanol | 1.5 L, 1.2 kg | C(C)O | C2H6O
solvent | ethanol | 0.4 L | C(C)O | C2H6O
product | 6-Fluoro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid | 534.5 g, 97.5% yield | FC=1C=C2C=3CC(CCC3NC2=CC1)C(=O)O | C13H12FNO2
